Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ with a PMH of hypogonadism and HTN who p/w over one week of 
cyclical fevers/chills, bloating, HA and decreased appetite. 

Mr. ___ symptoms began ___ during a trip to ___ 
(___), after a recent trip to ___ (___). Of 
note, he took malarone for malaria prophylaxis (beginning 2 days 
before the trip and continuing for a week after the trip ended). 
In ___ he stayed in a town by the ocean and on a boat, did 
not swim in fresh-water or the ocean (only in the pool), drank 
only bottled water and did not eat street food. 

He first noticed a headache that was located bilaterally in the 
front of his head. He does not usually get headaches. It 
resolved with ibuprofen but he has experienced recurrent HAs. He 
also noted severely decreased appetite and bloating that has 
persisted. He bought a thermometer in ___ when he 
realized that he was feeling poorly and began noticing recurrent 
fevers that occurred approximately every eight hours, maximum 
temperature 101.8. These fevers were associated with intense 
sweating requiring multiple shirt changes and subsequent chills 
after he took ibuprofen. 

He went to see his PCP at ___ on ___ where he was told to 
take Tylenol and had CBC, LFTs, and a U/A, urine culture 
checked. He returned to his PCP ___ ___, feeling somewhat 
better, and received a CXR that was unremarkable. On ___ he 
felt worse noted a fever to 100.7 and was notified that his LFTs 
were abnormal and so was referred to the ___. Notable labs at 
___ include: Negative HCV PCR, immunity to HAV/HBV and a 
negative HIV (___). 
 
In the ___, initial vital signs were: 98.4, 108, 141/97, 20, 
95%/RA
  
Exam notable for: non-tender abdomen and no visible rash. 

Labs were notable for: Na 130, K 4.1, Cr 1.2, lactate 1.6. LFTs 
notable for AST/ALT 201/122, AP 198, Lipase 110. CBC notable for 
WBC 13.5 with eosinophilia with atypical lymphocytes and 
thrombocytosis. Parasite screen was negative. 

Studies performed include: 
CXR (___): No opacity convincing for pneumonia
CT A/P (___): No acute intra-abdominal or pelvic abnormality to 
explain patient symptomatology.

Patient was given ibuprofen 800 mg x2, aspirin 81 mg, and 
hydrochlorothiazide 12.5 mg 
 
Vitals on transfer: 98.1 PO 112 / 71 106 16 93 RA   

Upon arrival to the floor, the patient was AF, stable blood 
pressure, tachycardic and diaphoretic, denied discomfort. 

 
Past Medical History:
Retinal detachment R eye
Hearing loss s/p bilateral ear tubes.
Hypogonadism - (Dr. ___ prescribes testosterone)
OA s/p bilateral knee surgery 
BPH
Elevated PSA (followed by Dr. ___
Glaucoma
GERD
OSA
HLD
Vitamin D Deficiency
Myopia, presbyopia
Lateral meniscus tear s/p surgery
Umbilical hernia s/p repair in ___
R inguinal hernia s/p repair in ___ - has residual pain.

 
Social History:
___
Family History:
Father: HTN, HLD, thyroid
Mother: MI, DM (d. ___)
M Uncle/cousin: colon cancer
M Uncle/cousin: heart disease
Brother: DM, HTN, HLD

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: 98.1 PO 112 / 71 106 16 93 RA
HEENT: Anisocoria (left pupil smaller after cataract surgery), R 
pupil reactive, EOMI, MM dry, anicteric sclerae 
NECK: No LAD, no TM
CARD: Tachycardic, S1 + S2 present, no mrg
PULM: CTAB, no wheezes/crackles
ABD: Soft nontender, mildly distended, no HSM, no 
rebound/guarding, +BS
EXT: WWP, no ___ edema
NEURO: CNII-XII intact, ___ strength UE and ___ proximal and 
distally bilaterally. AOx3. 

DISCHARGE PHYSICAL EXAM
=======================
VS: 98.0 | 156/77 | 89 | 18 | 94 Ra  
HEENT: Anisocoria (left pupil smaller after cataract surgery), R 
pupil reactive, EOMI, MMM, anicteric sclerae 
NECK: No LAD, no TM
CARD: RRR, S1 + S2 present, no mrg
PULM: CTAB, no wheezes/crackles
ABD: Soft nontender, mildly distended, no HSM, no 
rebound/guarding, +BS
EXT: WWP, no ___ edema
NEURO: CNII-XII intact, ___ strength UE and ___ proximal and 
distally bilaterally. AOx3. 

 
Pertinent Results:
ADMISSION LABS
==============
___ 08:40PM BLOOD WBC-13.5*# RBC-4.87 Hgb-15.7 Hct-44.4 
MCV-91 MCH-32.2* MCHC-35.4 RDW-12.4 RDWSD-41.3 Plt ___
___ 08:40PM BLOOD Neuts-62 Bands-3 Lymphs-16* Monos-3* 
Eos-9* Baso-0 Atyps-7* ___ Myelos-0 AbsNeut-8.78* 
AbsLymp-3.11 AbsMono-0.41 AbsEos-1.22* AbsBaso-0.00*
___ 08:40PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-OCCASIONAL Macrocy-NORMAL Microcy-NORMAL 
Polychr-OCCASIONAL Burr-OCCASIONAL
___ 08:40PM BLOOD Plt Smr-LOW Plt ___
___ 08:40PM BLOOD Parst S-NEG
___ 08:40PM BLOOD Glucose-110* UreaN-15 Creat-1.2 Na-127* 
K-7.0* Cl-87* HCO3-24 AnGap-23*
___ 08:40PM BLOOD ALT-122* AST-201* AlkPhos-198* 
TotBili-1.3
___ 08:40PM BLOOD Lipase-110*
___ 08:40PM BLOOD Albumin-3.8
___ 04:00PM BLOOD TSH-1.3
___ 08:58PM BLOOD Lactate-1.6 Na-130* K-4.1

NOTABLE LABS
============
___ 06:35AM BLOOD Parst S-NEGATIVE
___ 06:56AM BLOOD Parst S-NEGATIVE
___ 08:40PM BLOOD Parst S-NEG

IMAGES
======

CT A/P (___):
No acute intra-abdominal or pelvic abnormality to explain 
patient 
symptomatology. 

CXR (___): 
No opacity convincing for pneumonia. 

MICRO
=====
Blood culture (___): negative
Blood culture (___): pending
Urine culture (___): negative

EBV (___): IgG positive, IgM negative
CMV (___): IgG negative, IgM positive
Lyme (___): IgG negative, IgM negative

DISCHARGE LABS
==============
___ 06:35AM BLOOD WBC-12.1* RBC-4.53* Hgb-14.6 Hct-41.9 
MCV-93 MCH-32.2* MCHC-34.8 RDW-12.6 RDWSD-42.8 Plt ___
___ 06:35AM BLOOD Plt ___
___ 06:35AM BLOOD Glucose-96 UreaN-13 Creat-1.0 Na-133 
K-3.2* Cl-92* HCO3-29 AnGap-15
___ 06:35AM BLOOD ALT-187* AST-130* LD(LDH)-521* 
AlkPhos-260* TotBili-1.3
___ 06:35AM BLOOD Calcium-8.2* Phos-3.2 Mg-2.___ with a PMH of hypogonadism and HTN who p/w over one week of 
cyclical fevers/chills, bloating, HA and decreased appetite 
found to have acute CMV infection.

# CMV. Pt p/w cyclical fevers/sweats, headaches and decreased 
appetite. He was found to have leukocytosis with eosinophilic 
predominance, atypical lymphocytes as well as a transaminitis, 
mildly elevated lipase, thrombocytopenia and hyponatremia on 
admission. Pt was found to have positive CMV IgM c/f acute CMV 
infection. Given improvement in transaminitis pt was not treated 
with anti-viral mediactions. Elevated lipase and 
thrombocytopenia were likely acute phase reactions. Hyponatremia 
and ketonuira were likely due to hypovolemia iso poor PO intake. 
Hyponatremia resolved at time of discharge. Of note, ___ 
demonstrated that pt was immune to hepatitis A/B, did not have 
active hepatitis C, had negative ___ generation HIV test. 

# ___. Patient presented with Creatinine of 1.0 and bumped to 
1.3 with NSAIDs. Discontinued and returned to 1.0 at discharge. 
Recommended against standing NSAIDS.

CHRONIC ISSUES
============

# Hypertension. Continued home HCTZ 25 mg QD

# Hypogonadism. Pt takes testosterone 80 mg IM Qweek. 

TRANSITIONAL ISSUES
=================
[] F/u LFTs in one week to monitor for full resolution
[] F/u Creatinine, has been stable
[] Please follow up with HIV testing either repeat or VL as some 
concern for being within the window period even with ___ 
generation testing

#CODE: Full
#CONTACT: ___ (friend) ___, ___ 
(friend) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Testosterone Cypionate 80 mg IM QWEEK  
2. Ranitidine 150 mg PO QD:PRN GERD 
3. Aspirin 81 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Hydrochlorothiazide 25 mg PO DAILY  
3.  Multivitamins 1 TAB PO DAILY  
4.  Ranitidine 150 mg PO QD:PRN GERD  
5.  Testosterone Cypionate 80 mg IM QWEEK   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
================
Acute Cytomegalovirus Infection
Thrombocytopenia

SECONDARY DIAGNOSIS
===================
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to be part of your care. 

You were admitted to the hospital because you had been feeling 
ill with recurrent fevers, chills, headaches and a feeling of 
bloating. 

You were found to have a viral infection with a virus called CMV 
(cytomegalovirus). 

This infection will resolve on its own and you did not require 
anti-viral medications. 

If you experience any worsening fevers, chills, abdominal pain, 
nausea, vomiting, or headache then please seek medical 
attention. 

We wish you the best,
Your ___ Team
 
Followup Instructions:
___